US04241059
B. 6-[(4-Methoxyphenoxy)methyl]-4-(phenylmethyl)-2-morpholinemethanol
A solution of 6.21 g of p-methoxyphenol (0.05 mole) in 150 ml of dry dioxane is stirred under dry nitrogen and 0.4 g of finely cut sodium added. The mixture is stirred at room temperature for 1 hour and then 10.96 g of N,N-bis(2,3-epoxypropyl)benzylamine (0.05 mole) is added to the reaction mixture. The mixture is then heated at reflux for 18 hours, cooled to room temperature and poured into 300 ml of water. The aqueous mixture is extracted with 3×125 ml portions of chloroform. The CHCl3 extracts are combined, washed with 200 ml of water and 200 ml of saturated NaCl solution. The CHCl3 layer is then dried over anhydrous NaSO4, evaporated in vacuo to yield 15.4 g (90%) of crude product as a pale yellow oil. The oil is chromatographed on 300 g of neutral Alumina III to give 11.8 g (69%) of wet product (eluted with 650 ml of chloroform and 200 ml of 2% methanolic chloroform). 11.8 g of wet product is dried in vacuo to give the desired product as a clear colorless oil.

reactant | p-methoxyphenol | 0.05 mole, 6.21 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | sodium | [Na] | Na
reactant | N,N-bis(2,3-epoxypropyl)benzylamine | 0.05 mole, 10.96 g | O1C(CN(CC2CO2)CC2=CC=CC=C2)C1 | C13H17NO2
reactant | water | 300 ml | O | H2O
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 6-[(4-Methoxyphenoxy)methyl]-4-(phenylmethyl)-2-morpholinemethanol | 650 ml, 11.8 g | COC1=CC=C(OCC2OC(CN(C2)CC2=CC=CC=C2)CO)C=C1 | C20H25NO4
